US06822074B1
A solution of 30 g of Z-Arg(Pbf)-Gly-OtBu in 350 ml of THF is mixed with 3 g of water-moist Pd/C (10%) and the Z group is removed by hydrogenation under a gentle stream of H2. The catalyst is then filtered off and the solvent is removed. The residue is taken up in ethyl acetate and treated further as in Example 2.1. H-Arg(Pbf)-Gly-OtBu is obtained in a yield of 86%.

reactant | Z-Arg(Pbf)-Gly-OtBu | 30 g | N([C@@H](CCCNC(NS(=O)(=O)C1=C(C)C(C)=C2OC(C)(C)CC2=C1C)=N)C(=O)NCC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C33H47N5O8S
reactant | water | 3 g | O | H2O
solvent | THF | 350 ml | C1CCOC1 | C4H8O
product | H-Arg(Pbf)-Gly-OtBu | yield of 86% | N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C(C)=C2OC(C)(C)CC2=C1C)=N)C(=O)NCC(=O)OC(C)(C)C | C25H41N5O6S
